US08084448B2
A. (3-Benzyloxy-4-nitrophenoxy)-tert-butyldimethylsilane
A solution of 3-benzyloxy-4-nitrophenol (EP application 095121) (6.3 g, 25.7 mmol), t-butyldimethychlorosilane (5.81 g, 38.6 mmol), imidazole (3.5 g, 51.4 mmol), and dimethylaminopyridine (2-3 mg) in DMF (20 mL) is stirred 18 h. The solution is poured into EtOAc and extracted once with water and five times with brine. The organic phase is dried, filtered, and concentrated to afford the title compound: 1H NMR (CDCl3δ 7.73 (d, J=9.1 Hz, 1H), 7.21 (m, 5H), 6.31 (d, J=2.5 Hz, 1H), 6.26 (dd, J=8.8, 2.5 Hz, 1H), 5.02 (s, 2H), 0.78 (s, 9H), 0.00 (s, 6H).

reactant | 3-benzyloxy-4-nitrophenol | 25.7 mmol, 6.3 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1[N+](=O)[O-])O | C13H11NO4
reactant | t-butyldimethychlorosilane | 38.6 mmol, 5.81 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 51.4 mmol, 3.5 g | N1C=NC=C1 | C3H4N2
reactant | dimethylaminopyridine | 2-3 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (3-Benzyloxy-4-nitrophenoxy)-tert-butyldimethylsilane | C(C1=CC=CC=C1)OC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1[N+](=O)[O-] | C19H25NO4Si
